US06426345B1
A mixture of 1-iodo-3-nitrobenzene (7.47 g), 2-vinylpyridine (4.73 g), palladium(II) acetate (0.20 g), tetrabutylammonium chloride (8.34 g) and sodium bicarbonate (6.3 g) in N,N-dimethylformamide (50 ml) was stirred at 110° C. for 5 hours. Then the mixture was poured into aqueous sodium bicarbonate and extracted with ethyl acetate twice. The combined organic phase was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give 2-[(E)-2-(3-nitrophenyl)vinyl]pyridine (3.37 g).

reactant | 1-iodo-3-nitrobenzene | 7.47 g | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | 2-vinylpyridine | 4.73 g | C(=C)C1=NC=CC=C1 | C7H7N
reactant | sodium bicarbonate | 6.3 g | C([O-])(O)=O.[Na+]
catalyst | tetrabutylammonium chloride | 8.34 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.20 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[(E)-2-(3-nitrophenyl)vinyl]pyridine | 3.37 g | [N+](=O)([O-])C=1C=C(C=CC1)/C=C/C1=NC=CC=C1 | C13H10N2O2
